US04324919
By subjecting a mixture of hydrogen phosphide and isobutene in a glass vessel to irradiation with ultraviolet light at 20° C., it is also possible by the process just described to produce triisobutylphosphine, which is obtained in a yield of about 13.5%, after 150 minutes.

reactant | hydrogen phosphide | P | H3P
reactant | isobutene | C=C(C)C | C4H8
product | triisobutylphosphine | yield of about 13.5% | C(C(C)C)P(CC(C)C)CC(C)C | C12H27P
